US09034866B2
Synthesis of (R)-3-chloro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, racemic ethyl 3-chloro-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate was reacted with (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one to give a diasteromeric mixture of (R)-ethyl 3-chloro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate. Following aminolysis of the ethyl ester (similar to as described in General Procedure M) the titled compound was obtained after purification by prep HPLC.

reactant | racemic ethyl 3-chloro-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | ClC=1C(=NN2C3=C(OCCC21)C=CC(=C3)I)C(=O)OCC | C14H12ClIN2O3
reactant | (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
reactant | (R)-ethyl 3-chloro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | ClC=1C(=NN2C3=C(OCCC21)C=CC(=C3)C#C[C@]3(C(N(CC3)C)=O)O)C(=O)OCC | C21H20ClN3O5
product | (R)-3-chloro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | ClC=1C(=NN2C3=C(OCCC21)C=CC(=C3)C#C[C@]3(C(N(CC3)C)=O)O)C(=O)N | C19H17ClN4O4
